US05861417
4-(Pyrid-3-yl)piperidine-4-carboxylic acid amide hydriodic acid salt
Combine 4-(pyrid-3-yl)-piperidine-4-carboxylic acid amide (3.0 g, 14.6 mmol), methanol (:30 mL), and water (10 mL). Cool in an ice bath and add an aqueous solution of hydriodic acid (4.2 mL, 57%, 31.2 mmol). After 30 minutes, filter and evaporate the filtrate in vacuo to give a residue. Triturate the residue with methanol to give a solid. Collect the solid and dry in vacuo at 56° C. to give the title compound.

reactant | 4-(pyrid-3-yl)-piperidine-4-carboxylic acid amide | 14.6 mmol, 3.0 g | N1=CC(=CC=C1)C1(CCNCC1)C(=O)N | C11H15N3O
reactant | methanol | 30 mL | CO | CH4O
reactant | hydriodic acid | 31.2 mmol, 4.2 mL | I | HI
solvent | water | 10 mL | O | H2O
product | 4-(Pyrid-3-yl)piperidine-4-carboxylic acid amide hydriodic acid salt | I.N1=CC(=CC=C1)C1(CCNCC1)C(=O)N | InChI=1S/C11H15N3O.HI/c12-10(15)11(3-6-13-7-4-11)9-2-1-5-14-8-9;/h1-2,5,8,13H,3-4,6-7H2,(H2,12,15);1H
